US07754188B2
Step B Benzyl 2-(5-Fluoro-2-pyridyloxy)-2-methylpropionate
To a solution of benzyl 2-(5-fluoro-2-pyridyloxy)propionate (2.9 g, 10 mmol) and methyl iodide (3.3 mL, 53 mmol) in 40 mL of anhydrous THF at −78° C. was added potassium hexamethyldisilazide (0.5 M in toluene, 32 mL, 16 mmol). The reaction was allowed to warm to room temperature over 3 h and was partitioned between saturated ammonium chloride (150 mL) and EtOAc (150 mL). The organic layer was separated and the aqueous layer extracted with EtOAc (2×50 mL). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and concentrated to dryness, and the residue was purified by flash column chromatography on silica gel eluted with 0 to 20% EtOAc in hexane to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.63 (d, 1H), 7.44 (ddd, 1H), 7.27 (m, 3H), 7.18 (m, 2H), 6.74 (dd, 1H), 5.09 (s, 2H) 1.64 (s, 6H). LC-MS: m/e 290 (M+H)+ (3.7 min).

reactant | benzyl 2-(5-fluoro-2-pyridyloxy)propionate | 10 mmol, 2.9 g | FC=1C=CC(=NC1)OC(C(=O)OCC1=CC=CC=C1)C | C15H14FNO3
reactant | methyl iodide | 53 mmol, 3.3 mL | CI | CH3I
reactant | potassium hexamethyldisilazide | 16 mmol, 0.5 M, 32 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Benzyl 2-(5-Fluoro-2-pyridyloxy)-2-methylpropionate | FC=1C=CC(=NC1)OC(C(=O)OCC1=CC=CC=C1)(C)C | C16H16FNO3
